US06579872B1
Oxalyl chloride (0.5 ml) was added slowly to a stirred mixture of 4-acetoxybenzoic acid (1.09 g), methylene chloride (30 ml) and DMF (one drop) and the mixture was stirred at ambient temperature for 2 hours. A solution of 2-methyl-5-nitroaniline (0.76 g) and pyridine (2 ml) in methylene chloride was added over 15 minutes and the mixture was stirred for a further 2 hours. The reaction mixture washed with a 5% aqueous acetic acid solution, with water and with a 5% aqueous sodium bicarbonate solution. The organic extract was dried (MgSO4) and evaporated. The residue was recrystallised from ethyl acetate to give N-(2-methyl-5-nitrophenyl)-4-acetoxybenzamide (0.8 g), m.p. 207-208° C.; NMR Spectrum: (DMSOd6) 2.3 (s, 3H), 7.31 (d, 2H), 7.56 (d, 1H), 8.02 (m, 3H), 8.47 (d, 1H), 10.12 (s, 1H).

reactant | Oxalyl chloride | 0.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-acetoxybenzoic acid | 1.09 g | C(C)(=O)OC1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | 2-methyl-5-nitroaniline | 0.76 g | CC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(2-methyl-5-nitrophenyl)-4-acetoxybenzamide | 0.8 g | CC1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=C(C=C1)OC(C)=O)=O | C16H14N2O5
